US06251926B1
Sodium borohydride (232 mg) was added to a solution of 4-(5-chloroimidazo[1,2-a]pyridin-2-ylmethoxy)benzaldehyde (3.52 g) in methanol (10 ml)-tetrahydrofuran (50 ml) at 0° C. After stirring for 1 hour, water was added to the reaction mixture and extracted with ethyl acetate. The ethyl acetate layer was washed with an aqueous saturated solution of sodium chloride, dried (MgSO4) and concentrated. The remaining crystals were recrystallized from ethyl acetate to obtain 4(5-chloroimidazo[1,2-a]pyridin-2-ylmethoxy)benzylalcohol (2.34 g, yield 66%) as colorless crystals. m.p. 169-171° C.

reactant | Sodium borohydride | 232 mg | [BH4-].[Na+]
reactant | 4-(5-chloroimidazo[1,2-a]pyridin-2-ylmethoxy)benzaldehyde | 3.52 g | ClC1=CC=CC=2N1C=C(N2)COC2=CC=C(C=O)C=C2 | C15H11ClN2O2
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
reactant | water | O | H2O
solvent | methanol | 10 ml | CO | CH4O
product | 4(5-chloroimidazo[1,2-a]pyridin-2-ylmethoxy)benzylalcohol | 2.34 g, yield 66% | ClC1=CC=CC=2N1C=C(N2)COC2=CC=C(CO)C=C2 | C15H13ClN2O2
